US07943609B2
(11R)-11-(1-Fluoro-1-methylethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (300 mg, 1.00 mmol) was dissolved in 10 mL of trifluoroacetic acid and the solution was placed in a pressure bottle. Platinum oxide (227 mg) was then added and the reaction mixture was shaken under H2 at 50 PSI (3.4×105 Pa). After 20 hours, an additional 200 mg of catalyst was added and the mixture was shaken under H2 at 50 PSI (3.4×105 Pa) for an additional 24 h. The reaction mixture was filtered through a pad of CELITE filter agent. The pad was rinsed with a mixture of 2-propanol and CH2Cl2 and the combined filtrates were concentrated under reduced pressure to give a syrup. The syrup was partitioned between H2O and CHCl3. The aqueous portion was made basic by addition of 10% NaOH solution until the pH was higher than 12. The layers were separated and the organic portion was washed successively with 10% NaOH (2×), H2O and brine. The organic portion was then dried over Na2SO4, filtered and concentrated under reduced pressure to give a tan foam. Chromatography (SiO2, 25-33% CMA/CHCl3) followed by crystallization from ethyl acetate gave (11R)-11-(1-fluoro-1-methylethyl)-2,3,4,8,10,11-hexahydro-1H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine (159 mg) as off-white crystals, mp 195.5-197.0° C.

reactant | (11R)-11-(1-Fluoro-1-methylethyl)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 1.00 mmol, 300 mg | FC(C)(C)[C@H]1COCC=2N1C1=C(C(=NC3=CC=CC=C13)N)N2 | C16H17FN4O
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | Platinum oxide | 227 mg | [Pt]=O
product | (11R)-11-(1-fluoro-1-methylethyl)-2,3,4,8,10,11-hexahydro-1H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 159 mg | FC(C)(C)[C@H]1COCC=2N1C1=C(C(=NC=3CCCCC13)N)N2 | C16H21FN4O
